US08106090B2
[(1R,2S)-1-Benzyl-2-hydroxy-3-pyrazol-1-yl-propyl]-carbamic acid tert-butyl ester
Using general procedure 3, [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.15 g, 0.59 mmol) and pyrazole (0.194 g, 2.85 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.59 mmol, 0.15 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | pyrazole | 2.85 mmol, 0.194 g | N1N=CC=C1 | C3H4N2
product | [(1R,2S)-1-Benzyl-2-hydroxy-3-pyrazol-1-yl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1N=CC=C1)O)CC1=CC=CC=C1)=O | C18H25N3O3
